Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
SVT
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 Mr. ___ is a ___ male with ___ medical hx
was found intoxicated on side walk, and found to be in SVT.
Per ED notes, patient was found down, with visible nasal
abrasion, found to be in SVT to 180s. EMS brought patient to
___ at which point pt was oriented to person and place but
denied any recollection of fall/syncope. He told the ED 
physician
he was drinking to celebrate his divorce.

On exam upstairs, pt states he remembered falling due to 
drinking
a bottle of brandy.  States no symptoms, doesn't remember a
prodrome, palpitations or hitting his head.  Unclear if pt
confabulating. 

In the ED, VS notable for initial tachy into 160s but HD stable
throughout.  Patient was given adenosine and SVT broke.  Labs
notable for +etoh. 

Pt admitted to ___ for further management of SVT/?syncope/fall
and etoh.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Patient denied any significant medical history. 
Does not get regular medical care. 
 
Social History:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
On admission: 
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: abrasion on forehead
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, no asterixis, mild tremor, no
tounge fasiculations
PSYCH: pleasant, ?confabulating

On d/c: 
98.4
PO 117 / 79 72 18 95 RA 
GEN: Alert, comfortable, NAD
EYE:  EOMI, PERRL, no conjuctival pallor or irritation. 
ENT:  MMM, no oral lesions
Neck: no LAD, no nuchal rigidity, JVP WNL
CV:  RRR, no M/R/G
RESP: CTAB, no wheezes or crackles
Abd: Soft, NTND,  no HSM, Normal Bowel Sounds
EXT: No cyanosis, clubbing or edema. No signs of DVT. 
SKIN:  no rash, no  Pressure Ulcers. abrasion on forehead
NEURO:  A+OX3,  Non-Focal, Fluent Speech, Normal concentration
PSYCH: Calm and Appropriate
Skeltal: full painless ROM in neck and all joints. No skeletal 
or other injuries beyond forhead abrasion. 

 
Pertinent Results:
Admission labs: 

___ 09:16PM BLOOD WBC-6.5 RBC-4.46* Hgb-13.8 Hct-42.2 
MCV-95 MCH-30.9 MCHC-32.7 RDW-13.4 RDWSD-46.9* Plt ___
___ 09:16PM BLOOD ___ PTT-26.9 ___
___ 09:16PM BLOOD Glucose-90 UreaN-15 Creat-0.8 Na-139 
K-4.8 Cl-99 HCO3-24 AnGap-16
___ 09:16PM BLOOD cTropnT-<0.01
___ 03:08AM BLOOD cTropnT-<0.01
___ 10:25AM BLOOD Calcium-8.8 Phos-2.9 Mg-2.1
___ 09:16PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Discharge labs: 
___ 06:28AM BLOOD WBC-6.2 RBC-4.07* Hgb-12.6* Hct-37.9* 
MCV-93 MCH-31.0 MCHC-33.2 RDW-13.5 RDWSD-46.8* Plt ___
___ 06:28AM BLOOD Glucose-105* UreaN-13 Creat-0.8 Na-141 
K-4.3 Cl-102 HCO3-28 AnGap-11
___ 06:28AM BLOOD Calcium-9.1 Phos-3.2 Mg-2.3

Admission studies:  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or 
pneumothorax is seen. There are no acute osseous abnormalities. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 

CT cervical spine:
Minimal anterolisthesis of C2 on C3 is likely degenerative in 
etiology.  No 
acute fractures are detected.  Mild multilevel degenerative 
changes with 
intervertebral disc space narrowing and osteophyte formation are 
noted.  Mild 
spinal canal narrowing at C3-4 and C4-5 is demonstrated due to 
posterior disc 
bulges.  There is mild-to-moderate neural foraminal narrowing on 
the right at 
C3-4 and C4-5 secondary to facet joint arthropathy.There is no 
prevertebral 
soft tissue swelling.  Atherosclerotic calcifications at the 
carotid bulbs 
bilaterally are moderate in severity.  Visualized lung apices 
are clear.  A 
thyroid gland is slightly heterogeneous without a dominant 
nodule. 
  
IMPRESSION: 
  
  
1.  No acute fracture. 
2. Mild cervical spondylosis.  Mild anterolisthesis of C2 on C3 
is likely 
degenerative in etiology. 

NCHCT: 
 
There is no intra-axial or extra-axial hemorrhage, edema, shift 
of normally 
midline structures, or evidence of acute major vascular 
territorial 
infarction. Ventricles and sulci are mildly prominent compatible 
with age 
appropriate atrophy.  Mild mucosal thickening is seen in the 
ethmoid air 
cells.  The imaged paranasal sinuses are clear. Mastoid air 
cells and middle 
ear cavities are well aerated. The bony calvarium is intact. 
  
IMPRESSION:  
  
No acute intracranial process. 

TTE ___: 
 
Findings   
LEFT ATRIUM: Normal LA size. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Mildly dilated RA. Normal IVC 
diameter (<=2.1cm) with >50% decrease with sniff (estimated RA 
pressure ___ mmHg). 

LEFT VENTRICLE: Normal LV wall thickness, cavity size, and 
global systolic function (LVEF>55%). TDI E/e' < 8, suggesting 
normal PCWP (<12mmHg). No resting LVOT gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal diameter of aorta at the sinus, ascending and arch 
levels. 

AORTIC VALVE: Mildly thickened aortic valve leaflets. No AS. No 
AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild 
mitral annular calcification. Trivial MR. ___ LV inflow 
pattern for age. 

TRICUSPID VALVE: Normal tricuspid valve leaflets with trivial 
TR. Mild PA systolic hypertension. 

PULMONIC VALVE/PULMONARY ARTERY: Physiologic (normal) PR. 

PERICARDIUM: There is an anterior space which most likely 
represents a fat pad, though a loculated anterior pericardial 
effusion cannot be excluded.   
Conclusions   
 The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size, and global systolic function are normal (LVEF>55%). Tissue 
Doppler imaging suggests a normal left ventricular filling 
pressure (PCWP<12mmHg). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
are mildly thickened (?#). There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. There is 
mild pulmonary artery systolic hypertension. There is an 
anterior space which most likely represents a prominent fat pad. 


 IMPRESSION: Normal biventricular systolic function. Mildly 
thickened MV and AV without significant valvular pathology. Mild 
pulmonary hypertension.   

ECG's: see descriptions below 

 
Brief Hospital Course:
___ with no known significant medical history on daily aspirin, 
no PCP, chronic ETOH (reports 4 drinks per day) was found 
intoxicated on side walk, found by EMS to be in SVT, was sitting 
up and cooperative and denying any chest pain or SOB. Was 
brought to ___ ED where triage vital signs were 98.4  165  
138/65 18  98% RA. SVT was aborted with adenosine 6mg and 
subsequently remained in sinus rhythm. Admission labs were 
remarkable only for ETOH 193 and flat tropes and were otherwise 
WNL. He underwent NCHCT and cervical spine CT which were non 
traumatic. CXR WNL.  He was admitted to medicine for monitoring 
and syncope work-up. Of note ECG's while in SVT showed ST 
depressions in lateral and inferior leads. ECG in sinus is WNL 
and consistent with previous. On the floor he remained 
hemodynamically stable and consistently in sinus on overnight 
telemetry with no further recorded episodes of arrhythmia. He 
underwent TTE which showed mild PHTN but no significant 
structural abnormality. He was seen by ___ and had no significant 
functional impairments. He was monitored on CIWA scale and did 
not develop any significant withdrawal symptoms. He was reviewed 
by SW and was not interested in alcohol abstention interventions 
at this point. He is now discharged in good clinical condition 
for further outpatient follow-up as outlined below.   

# SVT: likely triggered by ETOH. No symptoms of hyperthyroidism 
or infection. Did not cause hemodynamic compromise and aborted 
with adenosine in A&E. History, exam , ECG and TTE without 
evidence of significant structural heart disease. Telemetry on 
the floor: sinus rhythm. 

# ? CAD: per inferolateral ST depression on ECG while in SVT 
which resolved in sinus. no symptoms. Trop negative x 2. No 
known risk factors. TTE as described under studies above with 
mild PHTN and with no significant structural abnormalities or 
WMA. He denied and chronic angina or heart failure symptoms.   

# Mild pulmonary hypertension: per TTE. Denies any chronic 
respiratory symptoms. Denies OSA symptoms.    

#Fall/syncope - unclear if mechanical fall or syncope given hx, 
though concern of syncope given SVT. Did not have any evidence 
of compromised cerebral perfusion while in SVT otherwise. Did 
well and cleared by ___ prior to d/c.   

# ETOH intoxication. no significant signs of withdrawl during 
this admission. Does not perceive himself to have an alcohol 
problem and was not interested in abstention resources. Did 
however express his understanding of the potential detrimental 
effects of alcohol and the risk of harm and even death with 
future intoxications. Received thiamine, folate and MVI.   
 
GENERAL/SUPPORTIVE CARE:

# VTE prophylaxis: received SQH during this admission
# Code status: full code during this admission. 

Transitional issues: 
- establish care with PCP. f/u as outlined below. 
- f/u with cardiology as outlined below 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Daily Multi-Vitamin]  1 tablet(s) by mouth 
QDAY Disp #*30 Tablet Refills:*0 
2.  Thiamine 100 mg PO DAILY Duration: 7 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth QDAY 
Disp #*7 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
SVT
ETOH intoxication 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted due to fall and a heart rhythm disorder that 
we believe developed due to alcohol intoxication. You were 
treated and your heart rate returned to normal. You should try 
to abstain from alcohol in the future as falls as well as heart 
rate abnormalities which may be life threatening can occur. 
Continued drinking may also have other long term ill effects on 
your health. 

We have made you an appointment with a new PCP as outlined 
below. Please follow-up to establish care. We have also made 
arrangements for you to follow-up with a cardiologist. Please 
make sure to keep these appointments. 

Please go the ED without delay if you experience any of the 
danger signs outlined below.    
 
Followup Instructions:
___